US08895582B2
To a solution of (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentyl acetate (48.2 g, 0.124 mol) and MeI (23.2 mL, 0.372 mol) in DMF (500 mL) was added sodium hydride (60%, 9.9 g, 0.248 mol) at 0° C. The resulting mixture was stirred at 0° C. for 2½ h and LC-MS indicated the reaction was completed. The reaction was quenched with saturated NH4Cl solution and diluted with EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated to give (S)-4-(tert-butoxycarbonyl(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentyl acetate (51 g, crude). LRMS (M+H+-Boc) m/z 290.2.

reactant | (S)-4-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)pentyl acetate | 0.124 mol, 48.2 g | C(C)(=O)OCCC[C@@H](CO[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C18H37NO5Si
reactant | MeI | 0.372 mol, 23.2 mL | CI | CH3I
reactant | sodium hydride | 0.248 mol, 9.9 g | [H-].[Na+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | (S)-4-(tert-butoxycarbonyl(methyl)amino)-5-(tert-butyldimethylsilyloxy)pentyl acetate | 51 g | C(C)(=O)OCCC[C@@H](CO[Si](C)(C)C(C)(C)C)N(C)C(=O)OC(C)(C)C | C19H39NO5Si
